US09290468B2
Step 3: N-(4-fluoro-5-((4-bromo-2-chlorophenyl)amino)benzo[d][1,2,3]thiadiazol-6-yl)cyclopropanesulfonamide
To a solution of 7-(cyclopropylsulfonyl)-4-fluoro-5-(2-chloro-4-bromophenyl)-5H-imidazo[4′,5′:4,5]benzo[1,2-d][1,2,3]thiadiazol-6(7H)-one (60 mg, 0.12 mmol) in THF (5 mL) was added potassium trimethylsilanolate (16 mg, 0.12 mmol). After stirring at room temperature for 1 h, the reaction was quenched with saturated NH4Cl (aq.). The aqueous layer was extracted with ethyl acetate (10 mL×2). The combined organic phase was washed with brine (10 mL), dried over Na2SO4, filtered and concentrated in vacuo. The residual crude product was purified by flash chromatography on silica gel (petroleum ether/ethyl acetate, 5:1-3:1, v/v) to give the corresponding product (30 mg, 52.7% yield). 1H NMR (400 MHz, CDCl3): δ 8.25 (s, 1H), 8.02-7.98 (m, 1H), 7.85 (m, 1H), 7.60-7.56 (m, 1H), 7.14 (s, 1H), 6.83 (s, 1H), 2.81-2.72 (m, 1H), 1.33 (m, 2H), 1.15 (m, 2H). MS APCI (+) m/z: 478.8, [M+H].

reactant | 7-(cyclopropylsulfonyl)-4-fluoro-5-(2-chloro-4-bromophenyl)-5H-imidazo[4′,5′:4,5]benzo[1,2-d][1,2,3]thiadiazol-6(7H)-one | 0.12 mmol, 60 mg | C1(CC1)S(=O)(=O)N1C(N(C=2C1=CC1=C(N=NS1)C2F)C2=C(C=C(C=C2)Br)Cl)=O | C16H9BrClFN4O3S2
reactant | potassium trimethylsilanolate | 0.12 mmol, 16 mg | C[Si]([O-])(C)C.[K+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | N-(4-fluoro-5-((4-bromo-2-chlorophenyl)amino)benzo[d][1,2,3]thiadiazol-6-yl)cyclopropanesulfonamide | 30 mg, 52.7% yield | FC1=C(C(=CC2=C1N=NS2)NS(=O)(=O)C2CC2)NC2=C(C=C(C=C2)Br)Cl | C15H11BrClFN4O2S2
